US07381746B2
37.7 g of sodium azide was added to 109 g of (1R,1aR,1bS,4aR,5aR)-1-fluoro-3,3-dioxotetrahydro-2,4-dioxa-3λ6-thiacyclopropa[a]pentalene-1,1b-dicarboxylic acid diethyl ester dissolved in 1.10 L of N,N-dimethylformamide and 110 mL of water, and the mixture was stirred for 14 hours at 50° C. The solvent was distilled off under reduced pressure, and after the residue was dissolved in 6.48 L of diethyl ether and 177 mL of water, 516 mL of 20% (V/V) sulfuric acid was added thereto, and the mixture was stirred for 34 hours at room temperature. After the reaction solution was separated, the organic layers were twice washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel: Wako gel C200, eluent: hexane-ethyl acetate=4:1), thereby yielding 88.5 g of (1R,2R,3R,5R,6R)-2-azido-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | sodium azide | 37.7 g | [N-]=[N+]=[N-].[Na+]
reactant | (1R,1aR,1bS,4aR,5aR)-1-fluoro-3,3-dioxotetrahydro-2,4-dioxa-3λ6-thiacyclopropa[a]pentalene-1,1b-dicarboxylic acid diethyl ester | 109 g | C(C)OC(=O)[C@@]1([C@@H]2[C@H]1C[C@H]1OS(O[C@@]21C(=O)OCC)(=O)=O)F | C12H15FO8S
solvent | N,N-dimethylformamide | 1.10 L | CN(C=O)C | C3H7NO
solvent | water | 110 mL | O | H2O
product | (1R,2R,3R,5R,6R)-2-azido-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 88.5 g | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1O)(C(=O)OCC)F)N=[N+]=[N-] | C12H16FN3O5
